US05886208
Preparation of 4-[[4-(aminoiminomethyl)phenyl]-amino]-4-oxobutanoic acid
Aminobenzamidine di-HCl (25 g, 120 mmol), which is commercially available from Aldrich, was added to dry DMF (100 mL). To this was added dry pyridine (100 mL) and succinic anhydride (12 g, 120 mmol) followed by N,N-dimethylaminopyridine (DMAP, 0.15 g). The product precipitated after heating for 0.5 hour at 100° C. The product was filtered, washed with water, acetonitrile and ether. The white solid was suspended in dioxane, 4N HCl in dioxane (100 mL) was added and the suspension stirred for 1 hour, filtered and dried in a desiccator to give 28 g, 88% isolated yield of a yellowish-white solid whose nmr and mass spectra is consistent with 4-[[4-(aminoiminomethyl)phenyl)amino]-4-oxobutanoic acid HCl salt. Mp: 270°-290° C., decomp.

reactant | Aminobenzamidine di-HCl | 120 mmol, 25 g | Cl.Cl.NC1=C(C(=N)N)C=CC=C1
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | succinic anhydride | 120 mmol, 12 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 4-[[4-(aminoiminomethyl)phenyl)amino]-4-oxobutanoic acid HCl salt | Cl.NN=CC1=CC=C(C=C1)NC(CCC(=O)O)=O
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 4-[[4-(aminoiminomethyl)phenyl]-amino]-4-oxobutanoic acid | NN=CC1=CC=C(C=C1)NC(CCC(=O)O)=O | C11H13N3O3
